US06297238B1
A mixture of indan-1-one (20.0 g), 4-nitrobenzaldehyde (27.0 g), glacial acetic acid (3.0 g) and piperidine (3.06 g) was heated at 95° C. under nitrogen for 3.5 h. The mixture was cooled to 20° C. and filtered to give a solid which was recrystallized from industrial methylated spirit to give 2-(4-nitrobenzylidene)indan-1-one.

reactant | indan-1-one | 20.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | 4-nitrobenzaldehyde | 27.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | piperidine | 3.06 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 3.0 g | C(C)(=O)O | C2H4O2
product | 2-(4-nitrobenzylidene)indan-1-one | [N+](=O)([O-])C1=CC=C(C=C2C(C3=CC=CC=C3C2)=O)C=C1 | C16H11NO3
